US03998955
A solution of 2-hydroxymethyl-4-methoxy-5-n-butyl-pyridine in methanol is adjusted to pH 1 with hydrochloric acid in ether and evaporated to dryness. The water which still adheres is distilled off azeotropically with toluene. The residue thus obtained is digested with acetone and the crystalline product is filtered off. 2-Hydroxymethyl-4-methoxy-5-n-butyl-pyridine hydrochloride of melting point 136°-137° is thus obtained.

reactant | 2-hydroxymethyl-4-methoxy-5-n-butyl-pyridine | OCC1=NC=C(C(=C1)OC)CCCC | C11H17NO2
reactant | hydrochloric acid | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 2-Hydroxymethyl-4-methoxy-5-n-butyl-pyridine hydrochloride | Cl.OCC1=NC=C(C(=C1)OC)CCCC | InChI=1S/C11H17NO2.ClH/c1-3-4-5-9-7-12-10(8-13)6-11(9)14-2;/h6-7,13H,3-5,8H2,1-2H3;1H
